### PR TITLE
Added translation between the two types of streams

### PR DESCRIPTION
**Pull request by cmester0**

### CODE REVIEW

File: Cubical/Codata/M/AsLimit/M/Base.agda [hunk 1]
```diff
@@ -121,7 +121,7 @@ shift-iso S@(A , B) =
         PathP (λ x → B (p n x) → Wₙ S n) (πₙ S ∘ u (suc n)) (u n)
           Iso⟨ pathToIso (PathP≡Path (λ x → B (p n x) → Wₙ S n) (πₙ S ∘ u (suc n)) (u n)) ⟩
         subst (λ k → B k → Wₙ S n) (p n) (πₙ S ∘ u (suc n)) ≡ (u n)
-          Iso⟨ (invIso (temp (pathToIso (cong (λ k → B k → Wₙ S n) (α-iso-step-5-Iso-helper0 a p n))))) ⟩
+          Iso⟨ (invIso (temp' (pathToIso (cong (λ k → B k → Wₙ S n) (α-iso-step-5-Iso-helper0 a p n))))) ⟩
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/M/Base.agda:124]: Instead of using pathToIso here, wouldn't it just be easier to prove that cong applied to an iso is an iso? It's probably very expensive to use pathToIso everywhere

File: Cubical/Codata/M/AsLimit/stream.agda [hunk 2]
```diff
@@ -1,11 +1,16 @@
-{-# OPTIONS --cubical --guardedness --safe #-}
+{-# OPTIONS --cubical --guardedness #-}
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/stream.agda:1]: Why no safe?

File: Cubical/Codata/M/AsLimit/stream.agda [hunk 3]
```diff
@@ -24,7 +29,167 @@ cons : ∀ {A} -> A -> stream A -> stream A
...
-tl {A} S = out-fun S .snd tt
+tl {A} s = out-fun s .snd tt
+
+------------------------------
+-- Equality of stream types --
+------------------------------
+
+open Stream
+
+stream-to-Stream : ∀ {A : Set} → stream A → Stream A
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/stream.agda:43]: Rename Set to Type everywhere

File: Cubical/Codata/M/AsLimit/stream.agda [hunk 4]
```diff
@@ -24,7 +29,167 @@ cons : ∀ {A} -> A -> stream A -> stream A
...
+head (stream-to-Stream x) = hd x
+tail (stream-to-Stream x) = stream-to-Stream (tl x)
+
+private
+  Stream-to-stream-func-x : ∀ {A : Set} (n : ℕ) -> Stream A → Wₙ (stream-S A) n
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/stream.agda:48]: Why use `->` instead of `→ `?

File: Cubical/Codata/M/AsLimit/stream.agda [hunk 5]
```diff
@@ -24,7 +29,167 @@ cons : ∀ {A} -> A -> stream A -> stream A
...
+tail-to-tl b = refl
+
+private
+  tail-eq-x : ∀ {A : Set} → (b : Stream A) (n : ℕ) → fst (tl (Stream-to-stream b)) n ≡ fst (Stream-to-stream (tail b)) n
+  tail-eq-x {A = A} b n =
+    transport (λ i → (Wₙ (stream-S A) n)) (Stream-to-stream-func-x n (tail b))
+      ≡⟨ sym (transport-filler (λ i → Wₙ (stream-S A) n) (Stream-to-stream-func-x n (tail b))) ⟩
+    fst (Stream-to-stream (tail b)) n ∎
+
+  postulate
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/stream.agda:75]: Why postulate?

File: Cubical/Codata/M/AsLimit/stream.agda [hunk 6]
```diff
@@ -24,7 +29,167 @@ cons : ∀ {A} -> A -> stream A -> stream A
...
+    fst a (suc n) ∎
+    where
+      temp : ∀ (n : ℕ) → fst (fst a (suc 0)) ≡ fst (fst a (suc n))
+      temp 0 = refl
+      temp (suc n) = temp n ∙ cong fst (sym (snd a (suc n)))
+
+      temp' : fst (tl a) n ≡ snd (fst a (suc n)) tt
+      temp' = sym (transport-filler (λ i → Wₙ (stream-S A) n) (a .fst (suc n) .snd tt))
+
+  postulate
```
Comment (mortberg) [inline Cubical/Codata/M/AsLimit/stream.agda:145]: Why postulate?

File: Cubical/Codata/M/AsLimit/M/Base.agda (hunk 1 above)
Comment (mortberg) [reply Cubical/Codata/M/AsLimit/M/Base.agda:124]: Can't you just use https://github.com/agda/cubical/blob/master/Cubical/Foundations/Equiv/HalfAdjoint.agda#L116 ?

Comment (cmester0) [reply Cubical/Codata/M/AsLimit/M/Base.agda:124]: I will try and have a look at it. Seems like it should be usable.

Comment (cmester0) [reply Cubical/Codata/M/AsLimit/M/Base.agda:124]: It seems like it does the same as `iso→fun-Injection-Iso-x` but where the input is an equivalence instead of an isomorphism, so I don't think it helps.

File: Cubical/Codata/M/AsLimit/stream.agda (hunk 2 above)
Comment (cmester0) [reply Cubical/Codata/M/AsLimit/stream.agda:1]: Oh, I should be safe, it is just easier to work with, without that flag.

File: Cubical/Codata/M/AsLimit/stream.agda (hunk 5 above)
Comment (cmester0) [reply Cubical/Codata/M/AsLimit/stream.agda:75]: I have not been able to complete the proof.

File: Cubical/Codata/M/AsLimit/stream.agda (hunk 6 above)
Comment (cmester0) [reply Cubical/Codata/M/AsLimit/stream.agda:145]: I have not been able to complete the proof.

**Comment by mortberg** [comment]
Closing this now as there has been no progress in over a year. Feel free to reopen!
